US05315025
A solution of 2-bromobenzaldehyde (18.50 g) in dry ether (20 ml) was added dropwise to a stirred solution of benzylmagnesium chloride [prepared from benzyl chloride (12.64 g) and magnesium (2.68 g)] in dry ether (120 ml), a thick precipitate forming during the addition. The mixture was stirred for 1 hour at room temperature then poured into water, acidified with 2M hydrochloric acid, and extracted with ether. The extracts were washed with water, dried, concentrated and chromatographed using dichloromethane and petrol (1:1) as eluant to give 1-(2-bromophenyl)-2-phenylethan-1-ol (10.95 g, 40%) as a white solid, melting point 84°-85° C.

reactant | 2-bromobenzaldehyde | 18.50 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | benzylmagnesium chloride | 12.64 g | C(C1=CC=CC=C1)[Mg]Cl
reactant | water | O | H2O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 120 ml | CCOCC | C4H10O
product | 1-(2-bromophenyl)-2-phenylethan-1-ol | 10.95 g, 40% | BrC1=C(C=CC=C1)C(CC1=CC=CC=C1)O | C14H13BrO
